US05162336
2.0 g isatoic anhydride is dissolved in 50 ml methylene chloride/5 ml dimethylformamide and 1.87 g 4-dimethylaminopyridine and 1.98 g dibutylamine are added. The mixture is stirred at room temperature for 5 hours, then diluted with 250 ml of ethyl acetate. The organic solution is washed with 10% HCl and brine and dried over sodium sulfate followed by filtration and evaporation to obtain a residue. The residue is dissolved in 25 ml ethyl acetate, the solution filtered, concentrated and this residue purified by flash chromatography on silica gel in ethyl acetate/hexane, 2:3, to give 2-amino-N,N-dibutyl benzamide.

reactant | isatoic anhydride | 2.0 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | dibutylamine | 1.98 g | C(CCC)NCCCC | C8H19N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.87 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 2-amino-N,N-dibutyl benzamide | NC1=C(C(=O)N(CCCC)CCCC)C=CC=C1 | C15H24N2O
